US07829580B2
(E)-3-{[1-(Carboxymethyl)-1H-imidazol-2-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-769)
Following a procedure similar to that described in Example 134, (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-imidazol-2-yl]methylidene}-4-sulfanylpiperidine hydrochloride (155.6 mg) was treated with 3N hydrochloric acid (5 ml) at 50° C. for 2.5 hours. After the reaction solution of was concentrated under reduced pressure, the residue was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.024 N hydrochloric acid, 15/85, v/v) to afford the title compound (149.0 mg, yield: quantitative) as a colourless amorphous solid.

reactant | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-imidazol-2-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 155.6 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C=1N(C=CN1)CC(=O)OCC)=O
reactant | hydrochloric acid | 3N, 5 ml | Cl | ClH
product | (E)-3-{[1-(Carboxymethyl)-1H-imidazol-2-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 149.0 mg, yield: quantitative | Cl.C(=O)(O)CN1C(=NC=C1)\C=C\1/CN(CCC1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C22H24FN3O3S.ClH/c23-17-4-2-1-3-16(17)21(22(29)14-5-6-14)26-9-7-18(30)15(12-26)11-19-24-8-10-25(19)13-20(27)28;/h1-4,8,10-11,14,18,21,30H,5-7,9,12-13H2,(H,27,28);1H/b15-11+;
